US03932465
A mixture of 0.550 g of 3-(5-diphenylmethoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester and 0.380 g of anisol is treated with 10 ml of trifluoroacetic acid and left to stand for 10 minutes at room temperature. The mixture is diluted with an equal volume of toluene and evaporated under reduced pressure. The residue is partitioned between ethyl acetate and a 10% aqueous dipotassium hydrogen phosphate solution (pH 7.8). The layers are separated, the aqueous phase is washed several times with ethyl acetate and the pH adjusted to 2.5 by addition of 20% aqueous phosphoric acid. After extraction with ethyl acetate, the resulting organic extracts are washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. The residue is recrystallised from ethyl acetate and yields the 3-(5-carboxy-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid, which melts at 194°-195°; [α]D20 = + 315° ± 1° (c = 1.010 in dioxan): thin-layer chromatogram (silica gel): Rf = 0.65 (system n-butanol/acetic acid/water 67:10:23) and Rf = 0.38 (system n-butanol/ethanol/water 40:10:50); infrared absorption spectrum (in mineral oil): characteristic bands at 2,99μ, 5,67μ, 5,76μ, 5,90μ, 6,04μ, 6,26μ, 6,51μ and 6,53μ (shoulder).

reactant | 3-(5-diphenylmethoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester | 0.550 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=C(S[C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)N)CC2=CC=C(O2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C47H38N2O7S
reactant | anisol | 0.380 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(5-carboxy-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid | C(=O)(O)C1=CC=C(CC2=C(S[C@H]3N(C2C(=O)O)C([C@H]3C(CC3=CC=CC=C3)=O)=O)N)O1 | C21H18N2O7S
